***< 同相入力範囲算出用テストベンチ >***
.lib CMIR

*****< Parameters >*****
.param half='psvoltage/2'
.param rload=20k
.param bgain=10
* .param gain=0.5

*****< Power_Supply >*****
VDD vdd gnd 'half'
VSS gnd vss 'half'

******< Input >******
VIN in1 gnd dc 0
E1 gnd in2 in1 gnd 1

*****< Circuit Topology >*****
* Positive side
X1a inm1 inp1 outx1 vdd vss opamp
R1a in1 inp1 'rload/2'
R2a inp1 gnd 'rload/2'
R3a in1 inm1 'rload/2'
R4a inm1 out1 rload
E1a out1 gnd outx1 gnd bgain
R5a outx1 gnd rload

* Negative side
X1b inm2 inp2 outx2 vdd vss opamp
R1b in2 inp2 'rload/2'
R2b inp2 gnd 'rload/2'
R3b in2 inm2 'rload/2'
R4b inm2 out2 rload
E1b out2 gnd outx2 gnd bgain
R5b outx2 gnd rload

* offset voltage
X2 inm3 gnd osx vdd vss opamp
R12 gnd inm3 'rload/2'
R22 inm3 os rload
E2 os gnd osx gnd bgain
R32 osx gnd rload

******< Control >******
.DC VIN 10m psvoltage '(psvoltage-10m)/1000'
* .PRINT V(out1,os) V(out2,os)
* + PAR'1-ABS(V(out1,os))/((0.5)*V(in1))' PAR'1-ABS(V(out2,os))/((0.5)*V(in1))'
.print PAR'1-ABS(V(out1,os))/((0.5)*V(in1))' PAR'1-ABS(V(out2,os))/((0.5)*V(in1))'
.TEMP 25


******< Measure command >******
.MEAS DC psvoltage param=psvoltage
.MEAS DC Vcmrn find V(in1) When par'1-ABS(V(out1,os))/((0.5)*V(in1))'=0.05 rise=1
.MEAS DC Vcmrp find V(in1) When par'1-ABS(V(out2,os))/((0.5)*V(in1))'=0.05 rise=1
*.IF (Vcmrn=='failed')
*.MEAS DC Vcmrn param=0.5*psvoltage
*.ENDIF
*.IF (Vcmrp=='failed')
*.MEAS DC Vcmrp param=0.5*psvoltage
*.ENDIF
.MEAS DC Vcmr param= Vcmrp+Vcmrn
.MEAS DC cmr param=50*Vcmr/psvoltage


******< Measure command >******
* .param Vcmirpp=0
* .param Vcmirpn=0
* .param Vcmirnp=0
* .param Vcmirnn=0
* .MEAS DC Vcmirpp find V(in1) When par'1-ABS(V(out1,os))/((0.5)*V(in1))'=0.05 rise=1
* .MEAS DC Vcmirpn find V(in1) When par'1-ABS(V(out1,os))/((0.5)*V(in1))'=-0.05 rise=1
* .MEAS DC Vcmirnp find V(in1) When par'1-ABS(V(out2,os))/((0.5)*V(in1))'=0.05 rise=1
* .MEAS DC Vcmirnn find V(in1) When par'1-ABS(V(out2,os))/((0.5)*V(in1))'=-0.05 rise=1
* * .if ( Vcmirpp == 0 || Vcmirpn == 0 )
*   .MEAS Vcmirp param="Vcmirpp ? Vcmirpp : Vcmirpn"
* .else
*   .MEAS Vcmirp param='0.5*psvoltage'
* .endif
* .if (Vcmirnp=="failed" || Vcmirnn=="failed")
*   .MEAS Vcmirn param="Vcmirnp ? Vcmirnp : Vcmirnn"
* .else
*   .MEAS Vcmirn param='0.5*psvoltage'
* *  .MEAS Vcmirn param=vcmirnp
* .endif

* .print fooo=par(Vcmirnp)

* .MEAS Vcmrp param='Vcmirpp+Vcmirpn'
* .MEAS Vcmrn param='Vcmirnp+Vcmirnn'
* .MEAS cmr param=100*Vcmr/psvoltage

.endl

